US05811433
b. Ethyl 7,8-dichloro-1-(1-hydroxy-2-propyl)-1,4-dihydro-4-oxo-1,6-naphthyridine-3-carboxylate
5.2 g (0.014 mol) of ethyl 2-(4,5,6-trichloronicotinoyl)-3-(1-hydroxy-2-propyl)amino-acrylate are stirred with 2.3 g (0.0167 mol) of potassium carbonate in 28 ml of DMF at room temperature overnight. Ice-water is added to the mixture and the product is isolated. The mother liquor is extracted with chloroform and the organic phase is concentrated on a rotary evaporator. The crude products are stirred up with acetonitrile.

reactant | ethyl 2-(4,5,6-trichloronicotinoyl)-3-(1-hydroxy-2-propyl)amino-acrylate | 0.014 mol, 5.2 g | ClC1=C(C(=NC=C1C(=O)C(C(=O)OCC)=CNC(CO)C)Cl)Cl | C14H15Cl3N2O4
reactant | potassium carbonate | 0.0167 mol, 2.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 28 ml | CN(C)C=O | C3H7NO
product | Ethyl 7,8-dichloro-1-(1-hydroxy-2-propyl)-1,4-dihydro-4-oxo-1,6-naphthyridine-3-carboxylate | ClC1=NC=C2C(C(=CN(C2=C1Cl)C(CO)C)C(=O)OCC)=O | C14H14Cl2N2O4
